US06462050B1
Preparation of 2-[3-(2,2-Difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-N-phenethyl-acetamide
8-1 was prepared from [3-(2,2-difluoro-2-pyridin-2-ylethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-acetic acid and phenethylamine essentially according to the procedure of Example 1, Step K. Mass Spectrum: Found: (M+1) 428.2.

reactant | [3-(2,2-difluoro-2-pyridin-2-ylethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-acetic acid | FC(CNC=1C(N(C(=CN1)C)CC(=O)O)=O)(C1=NC=CC=C1)F | C14H14F2N4O3
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | 2-[3-(2,2-Difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-N-phenethyl-acetamide | FC(CNC=1C(N(C(=CN1)C)CC(=O)NCCC1=CC=CC=C1)=O)(C1=NC=CC=C1)F | C22H23F2N5O2
